US08865726B2
(4S)-3-(3-(2-Chloro-4-(1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-isopropyloxazolidin-2-one (0.078 g, 65%) was prepared by the procedure described in Example 1, Step 9, using a mixture of (4S)-3-(3-(2-chloro-4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-isopropyloxazolidin-2-one and (4S)-3-(3-(2-chloro-4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-5-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-isopropyloxazolidin-2-one (0.158 g, 0.285 mmol), to produce a yellow solid. LCMS (APCI+) m/z 424.6 [M+H]+; 1H-NMR (400 MHz, DMSO-d6) δ 14.21 (broad s, 1H), 9.13 (d, J=7.8 Hz, 1H), 8.64 (s, 1H), 8.29 (s, 1H), 8.15 (s, 1H), 8.08 (m, 1H), 8.00 (d×d, J=8.2, 1.5 Hz, 1H), 7.93 (d, J=7.8 Hz, 1H), 4.85-4.81 (m, 1H), 4.45-4.44 (m, 2H), 2.70-2.66 (m, 1H), 0.95 (d, J=7.1 Hz, 3H), 0.84 (d, J=7.0 Hz, 3H).

reactant | (4S)-3-(3-(2-chloro-4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-isopropyloxazolidin-2-one | ClC1=C(C=CC(=C1)C1=NN(C=N1)COCC[Si](C)(C)C)C=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2C(C)C)=O | C26H32ClN7O3Si
reactant | (4S)-3-(3-(2-chloro-4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-5-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-isopropyloxazolidin-2-one | 0.285 mmol, 0.158 g | ClC1=C(C=CC(=C1)C1=NC=NN1COCC[Si](C)(C)C)C=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2C(C)C)=O | C26H32ClN7O3Si
product | (4S)-3-(3-(2-Chloro-4-(1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-isopropyloxazolidin-2-one | 0.078 g, 65% | ClC1=C(C=CC(=C1)C1=NNC=N1)C=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2C(C)C)=O | C20H18ClN7O2
